US04499100
The [2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amine prepared in Preparation A' (50 g) and piperidone (85 g) are dissolved in 500 ml of ethanol. Seventy-five grams of sodium cyanoborohydride is added, and the mixture is maintained at room temperature for 12 hours and cooled and evaporated. The product is recovered by adding aqueous ammonia to the residue and extracting with methylene chloride. Three 100 ml portions of methylene chloride are used which are combined, washed twice with 50 ml of water and evaporated to a semi-solid. Upon addition of ether, the product crystallizes and is recovered by filtration. The resulting crude mixture is boiled gently in 100 ml of diethyl ether and then evaporated to a residue and triturated with hexane to yield pure material, 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}piperidine.

reactant | [2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amine | O1C(COC2=C1C=CC=C2)C(CN)O | C10H13NO3
reactant | piperidone | 85 g | N1C(CCCC1)=O | C5H9NO
reactant | sodium cyanoborohydride | Seventy-five grams | C(#N)[BH3-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-{[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]amino}piperidine | O1C(COC2=C1C=CC=C2)C(CNC2CCNCC2)O | C15H22N2O3
